US04456612
2,3-Dichloro-6-propenyl-4-(2-fluorobenzoyl)phenol
A mixture of 2,3-dichloro-4-(2-fluorobenzoyl)phenol (98 g., 0.343 mole), K2CO3 (94 g., 0.68 mole), allyl bromide (37 ml., 0.425 ml.) and 750 ml. of 2-butanone was heated at reflux for 4 hours. After cooling the 2-butanone was partially evaporated and the residue distributed between methylene chloride and aqueous NaCl. The organic layer was dried and evaporated to give 105 g. of the intermediate propenyl ether as a liquid. This material was dissolved in an equal volume of diphenyl ether and heated at 250° for 3.5 hours. The cooled reaction mixture was diluted with hexane and washed several times with 1N aqueous KOH. The combined aqueous washes were acidified with 6N HCl and the resulting mixture extracted with methylene chloride. The methylene chloride solution was dried (MgSO4) and evaporated to a residue. Trituration with hexane gave 73 g. of solid product, m.p. 83°-84° C.

reactant | 2,3-dichloro-4-(2-fluorobenzoyl)phenol | 0.343 mole, 98 g | ClC1=C(C=CC(=C1Cl)C(C1=C(C=CC=C1)F)=O)O | C13H7Cl2FO2
reactant | K2CO3 | 0.68 mole, 94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 37 ml | C(C=C)Br | C3H5Br
reactant | propenyl ether | C(=CC)OC=CC | C6H10O
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2,3-Dichloro-6-propenyl-4-(2-fluorobenzoyl)phenol | ClC1=C(C(=CC(=C1Cl)C(C1=C(C=CC=C1)F)=O)C=CC)O | C16H11Cl2FO2
